US05495023
To a solution of crude 4-ethyl-2,4-hexadien-1-ylamine (1.38 g) and isopropyl N-cyano-3-pyridinecarboximidate (1.74 g) in methanol (35 ml) at room temperature was added 28% sodium methoxide in methanol (2.13 g). After 10 minutes, the mixture was diluted with water and extracted three times with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (5% methanol in dichloromethane) to give N-cyano-N'-(4-ethyl-2,4-hexadien-1-yl)-3-pyridinecarboximidamide (1.89 g) as an oil.

reactant | 4-ethyl-2,4-hexadien-1-ylamine | 1.38 g | C(C)C(C=CCN)=CC | C8H15N
reactant | isopropyl N-cyano-3-pyridinecarboximidate | 1.74 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 2.13 g | CO | CH4O
solvent | water | O | H2O
product | N-cyano-N'-(4-ethyl-2,4-hexadien-1-yl)-3-pyridinecarboximidamide | 1.89 g | C(#N)NC(=NCC=CC(=CC)CC)C=1C=NC=CC1 | C15H18N4
